US05519133
Preparation of N-[(5-Fluoro-2-nitrophenyl)carbamoyl]glycine methyl ester
A solution of 5-fluoro-2-nitrobenzoyl azide (5.46 g, 0.026 mol) in toluene is stirred at 65° C. for 90 minutes, cooled, treated with glycine methyl ester hydrochloride (3.63 g, 0.029 mol), stirred for 10 minutes, treated with pyridine (5 mL, 0.062 mol), stirred overnight, diluted with water and extracted with ethyl acetate. The organic extracts are combined, washed sequentially with water, 0.4M hydrochloric acid and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a solid. The solid is slurried in an ether/hexanes (6:4) solution, filtered and dried to give a yellow solid. Column chromatography of the yellow solid using silica gel and ethyl acetate in hexanes solutions gives the title product as a yellow solid, mp 133.2°-135.3° C.

reactant | 5-fluoro-2-nitrobenzoyl azide | 0.026 mol, 5.46 g | FC=1C=CC(=C(C(=O)N=[N+]=[N-])C1)[N+](=O)[O-] | C7H3FN4O3
reactant | glycine methyl ester hydrochloride | 0.029 mol, 3.63 g | Cl.COC(CN)=O
reactant | pyridine | 0.062 mol, 5 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N-[(5-Fluoro-2-nitrophenyl)carbamoyl]glycine methyl ester | COC(CNC(NC1=C(C=CC(=C1)F)[N+](=O)[O-])=O)=O | C10H10FN3O5
